US07390835B2
Step B 3-(2,4-Dichlorophenyl)-2-(4-chlorophenyl)propanol
To a solution of methyl 3-(2,4-dichlorophenyl)-2-(4-chlorophenyl)propionate (6.4 g, 8.6 mmol) in 50 mL ether at −40° C. was added lithium aluminum hydride (1.4 g, 37 mmol), and the reaction was allowed to warm to room temperature over 2 h. The reaction was quenched by addition of MeOH (3 mL) dropwise at −10° C., and the mixture was partitioned between 100 mL saturated ammonium chloride and EtOAc (100 mL). The organic layer was separated and the aqueous layer extracted with EtOAc (2×100 mL). The combined organic extracts were dried over anhydrous MgSO4, filtered, and concentrated to dryness to give the title compound, which was used without further purification. 1H NMR (400 MHz, CD3OD): δ 7.4-6.9 (m, 7H), 3.72 (m, 2H), 3.24 (dd, 1H), 3.16 (m, 1H), 2.85 (dd, 1H).

reactant | methyl 3-(2,4-dichlorophenyl)-2-(4-chlorophenyl)propionate | 8.6 mmol, 6.4 g | ClC1=C(C=CC(=C1)Cl)CC(C(=O)OC)C1=CC=C(C=C1)Cl | C16H13Cl3O2
reactant | lithium aluminum hydride | 37 mmol, 1.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 50 mL | CCOCC | C4H10O
product | 3-(2,4-Dichlorophenyl)-2-(4-chlorophenyl)propanol | ClC1=C(C=CC(=C1)Cl)CC(CO)C1=CC=C(C=C1)Cl | C15H13Cl3O
